US07687495B2
b) (2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1,2-dicarboxylic acid 1-benzyl ester
A solution of 0.370 g (2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1,2-dicarboxylic acid 1-benzyl ester 2-ethyl ester in 18 ml methanol-tetrahydrofuran-water 1:1:1 is cooled to 0° C. Lithiumhydroxide (0.050 g) is added and the mixture is left to warm to room temperature and stirred for 16 hours at this temperature. The mixture is acidified with 1M hydrochloric acid and extracted with dichloro-methane (2×). The combined organic phases are dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue is purified via flash chromatography (SiO2 60 F) to provide the product as a light red wax. Rf=0.25 (EtOAc-heptane-acetic acid 20:10:1); Rt=4.95.

reactant | (2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1,2-dicarboxylic acid 1-benzyl ester 2-ethyl ester | 0.370 g | CCOC(=O)[C@@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)OC)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C(=O)OCC1=CC=CC=C1 | C36H44N2O8
reactant | Lithiumhydroxide | 0.050 g | [OH-].[Li+]
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | EtOAc heptane acetic acid | CCOC(=O)C.CCCCCCC.C(C)(=O)O
solvent | methanol tetrahydrofuran water | 18 ml | CO.O1CCCC1.O
product | (2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1,2-dicarboxylic acid 1-benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)OC)C(=O)O | C34H40N2O8
